US05914339
5-{2-[2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid bis-(3,3-dimethyl-butyl) ester
The title compound was prepared from 5-{2-[2-(3-chloro-phenyl)-2-hydroxy-ethylarnino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid and 3,3-dimethylbutanol according to the procedure of Example 30 as a white foam (HCl salt); 1H NMR (CDCl3) δ 0.90 (s, 18H), 1.33 (bs, 3H), 1.62 (t, J=7.4 Hz, 4H), 2.80 (bs, 1H), 3.18 (bs, 2H), 3.48 (bs, 2H), 4.35 (t, J=7.4 Hz, 4H), 5.45 (bs, 1H), 6.80 (m, 3 H), 7.26 (m, 2H), 7.43 (s, 1H), 8.70 (bs, 1H), 10.10 (bs, 1H); IR (KBr): 1765 cm-1 (C=O); MS (CI) m/z 590 (MH+); [α]D5 -24° (c, 1.0, CHCl3). Anal. Calcd. for C32H44ClNO7 ·HCl: C, 61.34; H, 7.08; N, 2.24; Cl, 11.32. Found: C, 60.79; H, 7.46; N, 2.09; Cl, 11.95.

reactant | 5-{2-[2-(3-chloro-phenyl)-2-hydroxy-ethylarnino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid | ClC=1C=C(C=CC1)C(CNC(CC1=CC2=C(OC(O2)(C(=O)O)C(=O)O)C=C1)C)O | C20H20ClNO7
reactant | 3,3-dimethylbutanol | CC(CCO)(C)C | C6H14O
reactant | HCl | Cl | ClH
reactant | KBr | [K+].[Br-]
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 5-{2-[2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid bis-(3,3-dimethyl-butyl) ester | CC(CCOC(=O)C1(OC2=C(O1)C=CC(=C2)CC(C)NCC(O)C2=CC(=CC=C2)Cl)C(=O)OCCC(C)(C)C)(C)C | C32H44ClNO7
